US07713963B2
N-INDAN-2-YL-3-PYRIDIN-3-YL-BENZAMIDE
100 mg of 3-bromo-N-indan-2-yl-benzamide, 88 mg bis-(pinacolato)-dibor, 93 mg potassium acetate and 48 mg PdCl(dppf) were dissolved in 6 ml DMF and stirred at 80° C. for 2 h. The solution was cooled to ambient temperature and 100 mg of 3-bromo-pyridine added. Then, further 24 mg of PdCl(dppf) were added and the mixture stirred at 80° C. for 3.5 h. The mixture was cooled to ambient temperature and diluted with 20 ml ethyl acetate. The crude mixture was washed three times with 5 ml of a saturated aqueous solution of Na2CO3 each and dried over MgSO4. The solvents were removed under reduced pressure and the residue purified by chromatography on silica gel using MTB. Yield 60 mg of a viscous oil. Rf(MTB)=0.2.

reactant | 3-bromo-N-indan-2-yl-benzamide | 100 mg | BrC=1C=C(C(=O)NC2CC3=CC=CC=C3C2)C=CC1 | C16H14BrNO
reactant | potassium acetate | 93 mg | C(C)(=O)[O-].[K+]
reactant | 3-bromo-pyridine | 100 mg | BrC=1C=NC=CC1 | C5H4BrN
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-INDAN-2-YL-3-PYRIDIN-3-YL-BENZAMIDE | C1C(CC2=CC=CC=C12)NC(C1=CC(=CC=C1)C=1C=NC=CC1)=O | C21H18N2O
